US08877760B2
To a mixture of (R)-benzyl-1-((5-cyano-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate in methanol (2 ml) was added K2CO3 (excess) and H2O2 (50%, a few drops). After completion, it was concentrated to give (R)-benzyl-1-((5-carbamoyl-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate.

reactant | (R)-benzyl-1-((5-cyano-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate | C(C1=CC=CC=C1)OC(NC1(CC1)[C@@H](C1CC1)NC1=NC(=C(N=C1)C#N)NC1=CC(=CC=C1)C1=NC=CC=N1)=O | C30H28N8O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 2 ml | CO | CH4O
catalyst | H2O2 | a few drops | OO | H2O2
product | (R)-benzyl-1-((5-carbamoyl-6-(3-(pyrimidin-2-yl)phenylamino)pyrazin-2-ylamino)(cyclopropyl)methyl)cyclopropylcarbamate | C(C1=CC=CC=C1)OC(NC1(CC1)[C@@H](C1CC1)NC1=NC(=C(N=C1)C(N)=O)NC1=CC(=CC=C1)C1=NC=CC=N1)=O | C30H30N8O3
